US08580795B2
Step 3: Synthesis of 4-(difluoromethoxy)-8-nitrodibenzo[b,d]furan-1-carbaldehyde
To a mixture of 3-(2-bromo-4-nitrophenoxy)-4-(difluoromethoxy)benzaldehyde (11.5 g, 0.030 mol) and sodium acetate (3.7 g, 0.045 mol) in dimethylformamide (50 mL) palladium(II) acetate (0.68 g, 0.003 mol) was added in 4 different lots with 1 hour duration at 120-125° C. After the completion of the addition, it was refluxed for 16 hours. The reaction mixture was filtered through hyflo, washed with dimethylformamide (10 mL). The filtrate was poured into the cold water. The solid separated out was filtered. The solid was washed with hexane and dried. Yield—73.3%. HPLC (purity): 84.5%; Rf—0.5 (Ethyl acetate:Hexane (3:7)

reactant | 3-(2-bromo-4-nitrophenoxy)-4-(difluoromethoxy)benzaldehyde | 0.030 mol, 11.5 g | BrC1=C(OC=2C=C(C=O)C=CC2OC(F)F)C=CC(=C1)[N+](=O)[O-] | C14H8BrF2NO5
reactant | sodium acetate | 0.045 mol, 3.7 g | C(C)(=O)[O-].[Na+]
reactant | dimethylformamide | 0.003 mol, 50 mL, 0.68 g | CN(C=O)C | C3H7NO
product | 4-(difluoromethoxy)-8-nitrodibenzo[b,d]furan-1-carbaldehyde | Yield—73.3% | FC(OC1=CC=C(C2=C1OC1=C2C=C(C=C1)[N+](=O)[O-])C=O)F | C14H7F2NO5
